2132-12-16 09:06:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, Blood Loss Anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Passed additional clots overnight
   3 total units pRBCs
   Currently spitting up small amounts of red blood
   24 Hour Events:
 MULTI LUMEN - START [**2132-12-15**] 10:00 PM
 EKG - At [**2132-12-15**] 11:49 PM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Darvocet A500 (Oral) (Propoxyphene/Acetaminophen)
   Rash;
   Oxycodone
   Rash;
   Vancomycin
   Hypotension;
   Adhesive Tape (Topical)
   skin tears;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: NPO
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Dialysis
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-12-16**] 09:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**34**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 35.8
C (96.4
   HR: 79 (71 - 87) bpm
   BP: 123/45(64) {105/34(53) - 135/113(103)} mmHg
   RR: 19 (13 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    653 mL
                                                                    850 mL
   PO:
           TF:
   IVF:
                                                                     15 mL
                                                                    188 mL
   Blood products:
                                                                     38 mL
                                                                    663 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    653 mL
                                                                    850 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   9.0 g/dL
   223 K/uL
   88 mg/dL
   7.3 mg/dL
   19 mEq/L
   6.0 mEq/L
   169 mg/dL
   100 mEq/L
   138 mEq/L
   27.1 %
   20.0 K/uL
        [image002.jpg]
                             [**2132-12-15**]  10:30 PM
                             [**2132-12-16**]  04:55 AM
   WBC
   20.0
   Hct
   24.7
   27.1
   Plt
   223
   Cr
   7.3
   Glucose
   88
   Other labs: PT / PTT / INR:12.8/31.0/1.1, Ca++:8.8 mg/dL, Mg++:2.2
   mg/dL, PO4:7.7 mg/dL
   Assessment and Plan
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   82 year old male with a history of CAD (S/P CABG), ESRD on HD, AAA, who
   was transferred from OSH with lower GI bleed.
   1. GI Bleed/Blood Loss Anemia: GI following --> endoscopy (EGD first)
   today after HD.
   2. Leukocytosis: WBC elevated but coming down.  CXR clear.  Obtain
   cultures.  Empiric cipro/flagyl for time being.  Will trend lactates
   given prior suspected bowel ischemia
   3. Chronic Renal Insufficiency/HD: Currently on HD
   4. Bullous pemphigoid: Cont pred taper - team to contact [**Name (NI) 12734**]
   dermatologist
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-12-15**] 10:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2132-12-17 09:56:00 Physician Attending Progress Note
Chief Complaint: GI Bleed, blood loss anemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   EGD yesterday - large clot at stomach fundus not able to be removed -->
   repeat EGD today
   Intubated for airway protection for EGD - remained intubated overnight
   in anticipation of today's EGD
   Hct 32 this AM --> 7 units total pRBCs
   24 Hour Events:
 ARTERIAL LINE - START [**2132-12-16**] 04:00 PM
 INVASIVE VENTILATION - START [**2132-12-16**] 04:00 PM
   History obtained from Medical records, icu team
   Patient unable to provide history: Sedated
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash;
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Rash;
   Darvocet A500 (Oral) (Propoxyphene/Acetaminophen)
   Rash;
   Oxycodone
   Rash;
   Vancomycin
   Hypotension;
   Adhesive Tape (Topical)
   skin tears;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2132-12-16**] 02:25 PM
   Metronidazole - [**2132-12-17**] 12:00 AM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2132-12-16**] 10:30 AM
   Fentanyl - [**2132-12-16**] 07:50 PM
   Midazolam (Versed) - [**2132-12-16**] 08:00 PM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: NPO
   Respiratory: mechanical ventilation
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2132-12-17**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**34**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (96.9
   HR: 59 (57 - 93) bpm
   BP: 120/35(63) {80/30(49) - 150/53(87)} mmHg
   RR: 17 (16 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
           Total In:
                                                                  3,759 mL
                                                                    795 mL
   PO:
           TF:
   IVF:
                                                                  1,096 mL
                                                                    445 mL
   Blood products:
                                                                  2,663 mL
                                                                    350 mL
   Total out:
                                                                      0 mL
                                                                    300 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,759 mL
                                                                    495 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/36/139/26/2
   Ve: 8.4 L/min
   PaO2 / FiO2: 348
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   167 K/uL
   95 mg/dL
   4.3 mg/dL
   26 mEq/L
   3.9 mEq/L
   90 mg/dL
   98 mEq/L
   139 mEq/L
   32.1 %
   15.3 K/uL
        [image002.jpg]
                             [**2132-12-15**]  10:30 PM
                             [**2132-12-16**]  04:55 AM
                             [**2132-12-16**]  09:47 AM
                             [**2132-12-16**]  02:49 PM
                             [**2132-12-16**]  06:42 PM
                             [**2132-12-16**]  06:57 PM
                             [**2132-12-16**]  10:04 PM
                             [**2132-12-16**]  10:40 PM
                             [**2132-12-17**]  04:04 AM
                             [**2132-12-17**]  09:29 AM
   WBC
   20.0
   17.6
   20.9
   15.3
   Hct
   24.7
   27.1
   24.9
   28.5
   32.3
   29.5
   32.1
   Plt
   223
   272
   258
   174
   167
   Cr
   7.3
   3.7
   4.3
   TCO2
   30
   28
   26
   Glucose
   88
   109
   95
   Other labs: PT / PTT / INR:13.1/32.9/1.1, ALT / AST:14/17, Alk Phos / T
   Bili:77/0.4, Amylase / Lipase:/91, Lactic Acid:0.8 mmol/L, LDH:183
   IU/L, Ca++:8.2 mg/dL, Mg++:1.6 mg/dL, PO4:5.7 mg/dL
   Imaging: Ct abd (prelim) : no acute process
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   82 year old male with a history of CAD (S/P CABG), ESRD on HD, AAA, who
   was transferred from OSH with lower GI bleed.
   1. GI Bleed/Blood Loss Anemia: Repeat EGD today.  D/C Fem line and
   place PICC after EGD.
   2. Leukocytosis: D/C cipro/flagyl.  Lactate normal, CT prelim
   unremarkable
   3. Chronic Renal Insufficiency/HD: HD per renal - will likely need
   another run prior to extubation
   4. Bullous pemphigoid:Got stress dose steroids yesterday --> go back to
   pred taper
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2132-12-15**] 10:00 PM
   Arterial Line - [**2132-12-16**] 04:00 PM
   18 Gauge - [**2132-12-16**] 06:41 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill